US06362181B1
5-Amino-2-tert-butyldimethylsilyoxy-benzo[de]isoquinoline-1,3-dione
The hydrogenation of 2-tert-butyldimethylsilyoxy-5-nitro-benzo[de]isoquinoline-1,3-dione (1.0 g, 2.7 mmol, from Example A-1 or A-2) at 40 psi in the presence of 10% Pd/C catalyst (1.0 g) in ethyl acetate (20 mL) afforded 0.8 g of the title compound.

reactant | 2-tert-butyldimethylsilyoxy-5-nitro-benzo[de]isoquinoline-1,3-dione | 2.7 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)[N+](=O)[O-])=O | C18H20N2O5Si
catalyst | Pd/C | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-Amino-2-tert-butyldimethylsilyoxy-benzo[de]isoquinoline-1,3-dione | 0.8 g | NC=1C=C2C3=C(C(N(C(C3=CC=C2)=O)O[Si](C)(C)C(C)(C)C)=O)C1 | C18H22N2O3Si
